US04501860
Example 1 was repeated but substituting iso-butyl carbazate (24.75 g, 0.6 mole) for the ethyl carbazate and using phosgene (20 ml, 0.3 mole) in diethyl ether. 2-(2-methylpropyloxycarbonyl)hydrazinecarbonyl chloride was isolated as a viscous oil (31 g, 84%) whose ir spectrum was similar to that of 2-ethoxycarbonylhydrazinecarbonyl chloride.

reactant | iso-butyl carbazate | 0.6 mole, 24.75 g | C(NN)(=O)OCC(C)C | C5H12N2O2
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
reactant | phosgene | 0.3 mole, 20 ml | C(=O)(Cl)Cl | CCl2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(2-methylpropyloxycarbonyl)hydrazinecarbonyl chloride | CC(COC(=O)NNC(=O)Cl)C | C6H11ClN2O3
